US04921624
Oleic diethanolamide was prepared by stirring equimolar quantities of oleic acid and diethanolamine in a nitrogen atmosphere while heating to 182° C. and maintaining the temperature for 2 hours while removing water. The product (Additive D), which also contained a significant amount of ester, was representative of another commercial amide.

reactant | oleic acid | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
reactant | diethanolamine | N(CCO)CCO | C4H11NO2
product | Oleic diethanolamide | CCCCCCCC/C=C\CCCCCCCC(=O)N(CCO)CCO | C22H43NO3
